US08912209B2
Intermediate 6: {1-[3′-Hydroxy-5-(pyridin-4-ylcarbamoyl)-biphenyl-2-yl]-ethyl}-carbamic acid tert-butyl ester
To a solution of {1-[2-bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (2087 μmol) and 3-hydroxyphenylboronic acid (1.55 eq) in a mixture of DME/EtOH: 1/1 (8 ml) were added Na2CO3 (4 eq) and Pd tetrakis (0.05 eq.). The reaction mixture was flushed with Ar and was heated in the microwave at 130° C. for 1.5 hours. The reaction mixture was cooled to RT, diluted with 1N NaHCO3 and extracted with EtOAc. The organic layer was extracted with 1N NaHCO3 and the combined aqueous layers were acidified with citric acid and 1N HCl. The aqueous layer was extracted with EtOAc, the organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The compound was purified by recrystallization from EtOAc.

reactant | {1-[2-bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 2087 μmol | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)Br)=O | C19H22BrN3O3
reactant | 3-hydroxyphenylboronic acid | 1.55 eq | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | Na2CO3 | 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME EtOH | COCCOC.CCO
catalyst | Pd tetrakis | 0.05 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {1-[3′-Hydroxy-5-(pyridin-4-ylcarbamoyl)-biphenyl-2-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)C1=CC(=CC=C1)O)=O | C25H27N3O4
